US04157399
29.5 g (0.103 mol) of 3-formamido-2-(4'-chloro-phenyl) benzo(b)thiophene with 300 ml of hydrochloric acid at 25% are refluxed with stirring for 10 hours. After cooling, the mixture is poured into water, made alkaline by ammonia and extracted with CH2Cl2. By evaporating the organic phase dried over K2CO3 and recrystallising the residue in acetone, 19.9 g (73% of theory) of 3-amino-2-(4-chlorophenyl)-benzo(b)-thiophene are obtained, yellow crystals, mp. 152°-154° (benzene).

reactant | 3-formamido-2-(4'-chloro-phenyl) benzo(b)thiophene | 0.103 mol, 29.5 g | C(=O)NC=1C2=C(SC1C1=CC=C(C=C1)Cl)C=CC=C2 | C15H10ClNOS
reactant | hydrochloric acid | 300 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | 3-amino-2-(4-chlorophenyl)-benzo(b)-thiophene | 19.9 g, 73% | NC=1C2=C(SC1C1=CC=C(C=C1)Cl)C=CC=C2 | C14H10ClNS
